US04440784
In 150 ml of dimethyl sulfoxide (DMSO) were dissolved 18 g of 3,5-di-tert-butyl-4-hydroxybenzaldehyde and 27 g of α-triphenylphosphoranylidene-γ-butyrolactone, and the reaction was carried out at 80° C. on a hot water bath with stirring for 20 hours. After the completion of the reaction, 800 ml of chloroform was added to the cooled reaction mixture, and the resulting mixture washed 5 times with the same volume of water to remove the solvent DMSO. The chloroform layer was separated and concentrated to dryness under reduced pressure to remove the chloroform. The residue was crystallized by addition of ethanol and further recrystallized from ethanol to afford 18 g of α-(3,5-di-tert-butyl-4-hydroxybenzylidene)-γ-butyrolactone. To 100 ml of aqueous 1 N sodium hydroxide was added 1.5 g of α-(3,5-di-tert-butyl-4-hydroxybenzylidene)-γ-butyrolactone, and the hydrolysis reaction was carried out at 90°~100° C. in an oil bath with stirring in an atmosphere of nitrogen for one hour. After the completion of the reaction, 10% of sulfuric acid was added gradually to the cooled reaction mixture for acidification, whereupon precipitates were formed. The precipitates were collected by filtration and washed sufficiently with water. The precipitates were dissolved in benzene to effect crystallization, affording 1.0 g of the desired Compound I.

reactant | 3,5-di-tert-butyl-4-hydroxybenzaldehyde | 18 g | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
reactant | α-triphenylphosphoranylidene-γ-butyrolactone | 27 g | C1(=CC=CC=C1)P(=C1C(=O)OCC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H19O2P
reactant | chloroform | 800 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dimethyl sulfoxide | 150 ml | CS(=O)C | C2H6OS
product | α-(3,5-di-tert-butyl-4-hydroxybenzylidene)-γ-butyrolactone | 18 g | C(C)(C)(C)C=1C=C(C=C2C(=O)OCC2)C=C(C1O)C(C)(C)C | C19H26O3
